US04075207
Preparation of 2-Amino-5,6-dichloro-3-mercaptopyrazine
A mixture of 19.9 g. (0.1 mol.) of aminotrichloropyrazine, 25.2 g. (0.105 mol.) of sodium sulfide nonahydrate in 500 ml. of 2-propanol was heated to boiling under reflux for 5 hours. After cooling, the reaction mixture was filtered. The filtrate was neutralized with hydrochloric acid and filtered. The solid was washed with water and dried to give 11.4 g. (58% yield) of product.

reactant | aminotrichloropyrazine | 0.1 mol | NC1=C(N=C(C(=N1)Cl)Cl)Cl | C4H2Cl3N3
reactant | sodium sulfide nonahydrate | 0.105 mol | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
solvent | 2-propanol | CC(C)O | C3H8O
product | 2-Amino-5,6-dichloro-3-mercaptopyrazine | 58% yield | NC1=NC(=C(N=C1S)Cl)Cl | C4H3Cl2N3S
